Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bladder mass
 
Major Surgical or Invasive Procedure:
Robot assist laparoscopic partial cystectomy.

 
History of Present Illness:
___ with incidental mass at the dome of the bladder c/w urachal 
remnant
 
Past Medical History:
Crohn's disease (enterocolitis)
Eosinophilic gastritis, enteritis, and colitis
hyperlipidemia
hypertension
GERD
 
Social History:
___
Family History:
 Unremarkable.
 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions otherwise c/d/i
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation
 
Pertinent Results:
___ 08:19AM BLOOD WBC-5.6 RBC-4.75 Hgb-15.4 Hct-44.8 MCV-94 
MCH-32.4* MCHC-34.4 RDW-13.8 RDWSD-47.9* Plt ___

___ 08:19AM BLOOD Glucose-96 UreaN-10 Creat-1.1 Na-139 
K-3.7 Cl-101 HCO3-27 AnGap-15
 
Brief Hospital Course:
Mr. ___ was admitted to Urology after undergoing robot assist 
laparoscopic partial cystectomy. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
Mr. ___ received perioperative antibiotic prophylaxis and was 
transferred to the floor from the PACU in stable condition. On 
POD0, pain was well controlled on PCA, hydrated for urine output 
>30cc/hour, and provided with pneumoboots and incentive 
spirometry for prophylaxis. Mr. ___ ambulated, restarted on 
home medications, basic metabolic panel and complete blood count 
were checked, pain control was transitioned from PCA to oral 
analgesics, diet was advanced to a clears/toast and crackers 
diet.  The remainder of the hospital course was relatively 
unremarkable. Mr. ___ was discharged in stable condition, 
eating well, ambulating independently, versed on foley 
care/hygiene and
with pain control on oral analgesics. On exam, incision was 
clean, dry, and intact, with no evidence of hematoma collection 
or infection. Mr. ___ was given explicit instructions to 
follow-up in clinic in approximately one week for void trial. 
 
Medications on Admission:
Meds include losartan, lovastatin, mercaptopurine, omeprazole,  
 sodium, potassium, bowel prep kit, calcium, Zyrtec, vitamin D3, 
 
 fluticasone and multivitamins.  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
start one day before scheduled foley removal/void trial 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*30 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hrs Disp #*25 Tablet 
Refills:*0 
7.  Phenazopyridine 100 mg PO Q8H:PRN foley discomfort Duration: 
3 Days  
8.  Cetirizine 10 mg PO DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY allergies  
10.  Lovastatin 20 mg oral QHS  
11.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Extravesical urachal bladder mass.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the provided “handout” that details 
instructions and expectations for your post-operative phase as 
made available by Dr. ___ office.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-Please AVOID aspirin or aspirin containing products and 
supplements that may have “blood-thinning” effects (like Fish 
Oil, Vitamin E, etc.) unless you have otherwise been advised.  
This will be noted in your medication reconciliation. 

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___. 
REPLACE the Tylenol with this narcotic pain medication if 
additional pain control is needed..

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool-softener, NOT a laxative

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.
 
Followup Instructions:
___